### PR TITLE
[Merged by Bors] - feat(Algebra/Module): define stably free modules

### PR DESCRIPTION
**Pull request by mbkybky**
We define stably free modules: a module `M` over a commutative ring `R` is called stably free if there exists a finite free module `N` over `R` such that `M ⊕ N` is free.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,51 @@
...
+@[expose] public section
+
+universe u
+
+/-- A module `M` over a commutative ring `R` is called stably free if there exists a
+  finite free module `N` over `R` such that `M ⊕ N` is free. -/
+@[stacks 0BC3 "(2)"]
+def IsStablyFree (R : Type u) [CommRing R] (M : Type*) [AddCommGroup M] [Module R M] : Prop :=
+  ∃ (N : Type u) (_ : AddCommGroup N) (_ : Module R N)
+    (_ : Module.Finite R N) (_ : Module.Free R N), Module.Free R (M × N)
```
Comment (dagurtomas) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]: Like `Module.Free` and `Module.Finite`, I would think this could be a class. Then you could add an instance `Module.Free -> IsStablyFree`. Also, for consistency, this should be named `Module.StablyFree`.

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+
+variable {R : Type u} [CommRing R] {M N : Type*} [AddCommGroup M] [Module R M]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]: `R` does not need to be commutative for any of the definitions in this file

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,66 @@
...
+universe u
+
+namespace Module
+
+/-- A module `M` over a commutative ring `R` is called stably free if there exists a
+  finite free module `N` over `R` such that `M ⊕ N` is free. -/
+@[stacks 0BC3 "(2)"]
+class IsStablyFree (R : Type u) [Semiring R] (M : Type*) [AddCommMonoid M] [Module R M] : Prop where
+  out' (R M) : ∃ (N : Type u) (_ : AddCommMonoid N) (_ : Module R N)
+    (_ : Module.Finite R N) (_ : Free R N), Free R (M × N)
```
Comment (dagurtomas) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]: `out'` needs a better name

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,66 @@
...
+
+theorem IsStablyFree.out (R : Type u) [Ring R] (M : Type*) [AddCommMonoid M] [Module R M]
```
Comment (dagurtomas) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]: `out` needs a better name

**Review by dagurtomas — COMMENTED** [review]
Can you say a bit more about what applications you have in mind? This looks mostly good to me but it would be good to have some evidence that this is a good design that works in practice.

**Comment by mbkybky** [comment]
> Can you say a bit more about what applications you have in mind? This looks mostly good to me but it would be good to have some evidence that this is a good design that works in practice.

In #37216, we shown that a finite stably free module `M` is free if it is locally free of rank `1`. Additionally, we shown that a finite projective module is stably free if and only if it admits a finite free resolution in this [repo](https://github.com/mbkybky/QuillenSuslin/blob/e94dca02f18a9ce3bc10c16d1242d375ed7f00d2/QuillenSuslin/StablyFree/HasFiniteFreeResolution.lean#L46). These results can eventually be used to prove that every regular local ring is a UFD.

**Review by dagurtomas — APPROVED** [review]
LGTM but I would like someone else to take a look. I requested a review from @erdOne but feel free to suggest someone else

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,78 @@
...
+
+universe u v w
+
+namespace Module
+
+/-- A module `M` over a commutative ring `R` is called stably free if there exists a
+  finite free module `N` over `R` such that `M ⊕ N` is free. -/
+@[stacks 0BC3 "(2)"]
+class IsStablyFree (R : Type u) [Semiring R] (M : Type*) [AddCommMonoid M] [Module R M] : Prop where
+  exist_free_prod' (R M) : ∃ (N : Type u) (_ : AddCommMonoid N) (_ : Module R N)
```
Comment (robin-carlier) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]: So if I understand correctly the point is to use `of_free_prod`, which has better universe levels, to construct basically all instances of this class. So one thing we can do is to mark the constructor `private` here 
```suggestion
  private exist_free_prod' (R M) : ∃ (N : Type u) (_ : AddCommMonoid N) (_ : Module R N)
```
and now this makes it so that we can’t even talk about `exist_free_prod'` outside of this file (unless a file decides to import the private scope of this file, which should basically never happen).

If we do that though, we’d need to mention that the constructor is private in the docstring of this class, and that the intended constructor is `of_free_prod`.

Though perhaps we’d still need a lemma that gives the `exists` when working over SemiRings? Marking it private may also prevent from using `obtain ⟨…⟩ := ` for SemiRings that are not rings, but do we really care about this case to begin with? (This can also be reestablished with a `mk_iff` tag if needed)

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,78 @@
...
+    IsStablyFree R M :=
+  IsStablyFree.equiv (Shrink.linearEquiv R M)
+
+instance [Free R M] : IsStablyFree R M :=
+  ⟨PUnit, inferInstance, inferInstance, inferInstance, inferInstance, inferInstance⟩
+
+theorem IsStablyFree.of_free_prod [Module.Finite R N] [Free R N] [Free R (M × N)] :
+    IsStablyFree R M := by
+  have : Small.{u} N := Module.Finite.small.{u} R N
+  have eN : N ≃ₗ[R] Shrink.{u} N := (Shrink.linearEquiv R N).symm
```
Comment (robin-carlier) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]: this is data, so even if the value is not "used", I think it’s better to signal it via a `let`.
```suggestion
  let eN : N ≃ₗ[R] Shrink.{u} N := (Shrink.linearEquiv R N).symm
```
(you can also use `let +nondep` instead of `let`).

**Review by robin-carlier — COMMENTED** [review]
I guess my only question is about the design of having that primed constructor here, feel free to correct me if I didn’t uderstand the situation.

File: Mathlib/Algebra/Module/StablyFree/Basic.lean (hunk 5 above)
Comment (mbkybky) [reply Mathlib/Algebra/Module/StablyFree/Basic.lean]: Yes, in my original design, I intended to have property theorems for `Semiring` and `Ring` respectively, along with a universe-free characterization theorem, while preventing `IsStablyFree` from being constructed using the raw definition. This was feasible when it was a `def` since it was `no_expose`. However, thanks for the reminder—I've now realized that after changing it to a `class`, it is no longer affected by `no_expose`, and only `private` can block it.

Regarding `Semiring`, I suspect that no one actually needs to work in this setting. If you also think that `Ring` is enough, I can change them all to `Ring`.

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+  (N : Type w) [AddCommGroup N] [Module R N]
+
+theorem IsStablyFree.exist_free_prod [IsStablyFree R M] : ∃ (N : Type u)
+    (_ : AddCommGroup N) (_ : Module R N) (_ : Module.Finite R N) (_ : Free R N), Free R (M × N) :=
+  IsStablyFree.exist_free_prod'
+
+variable {R M N} in
+theorem IsStablyFree.equiv (e : M ≃ₗ[R] N) [IsStablyFree R M] : IsStablyFree R N := by
+  obtain ⟨P, hPc, hPm, hPfin, hPfree, _⟩ := IsStablyFree.exist_free_prod R M
+  exact ⟨P, hPc, hPm, hPfin, hPfree, Free.of_equiv ((e.prodCongr (LinearEquiv.refl R P)))⟩
```
Comment (robin-carlier) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]:
```suggestion
  exact ⟨P, hPc, hPm, hPfin, hPfree, Free.of_equiv (e.prodCongr (LinearEquiv.refl R P))⟩
```

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,80 @@
...
+instance [Free R M] : IsStablyFree R M :=
+  ⟨PUnit, inferInstance, inferInstance, inferInstance, inferInstance, inferInstance⟩
+
+theorem IsStablyFree.of_free_prod [Module.Finite R N] [Free R N] [Free R (M × N)] :
+    IsStablyFree R M := by
+  have : Small.{u} N := Module.Finite.small.{u} R N
+  let +nondep eN : N ≃ₗ[R] Shrink.{u} N := (Shrink.linearEquiv R N).symm
+  exact ⟨Shrink.{u} N, inferInstance, inferInstance, Module.Finite.equiv eN,
+    Free.of_equiv eN, Free.of_equiv ((LinearEquiv.refl R M).prodCongr eN)⟩
+
```
Comment (robin-carlier) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean:76]: Just in case, it would be convenient to also have a version where we take the product on the right instead.
```suggestion

theorem IsStablyFree.of_free_prod' [Module.Finite R N] [Free R N] [Free R (N × M)] :
    IsStablyFree R M :=
  have : Free R (M × N) := Free.of_equiv (LinearEquiv.prodComm R N M)
  .of_free_prod R M N

```

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,80 @@
...
+@[stacks 0BC3 "(2)"]
+class IsStablyFree (R : Type u) [Ring R] (M : Type*) [AddCommGroup M] [Module R M] : Prop where
+  private exist_free_prod' : ∃ (N : Type u) (_ : AddCommGroup N) (_ : Module R N)
+    (_ : Module.Finite R N) (_ : Free R N), Free R (M × N)
+
+variable (R : Type u) [Ring R] (M : Type v) [AddCommGroup M] [Module R M]
+  (N : Type w) [AddCommGroup N] [Module R N]
+
+theorem IsStablyFree.exist_free_prod [IsStablyFree R M] : ∃ (N : Type u)
+    (_ : AddCommGroup N) (_ : Module R N) (_ : Module.Finite R N) (_ : Free R N), Free R (M × N) :=
```
Comment (robin-carlier) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]: I think it’s slightly better to not have the `∃ (N : Type u)` in its own line
```suggestion
theorem IsStablyFree.exist_free_prod [IsStablyFree R M] :
    ∃ (N : Type u) (_ : AddCommGroup N) (_ : Module R N) (_ : Module.Finite R N) (_ : Free R N),
      Free R (M × N) :=
```

**Review by robin-carlier — COMMENTED** [review]
Thanks! I left an extra theorem as a suggestion and have micro stylistic nits, but this is good to go

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/Algebra/Module/StablyFree/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,86 @@
...
+  let +nondep eN : N ≃ₗ[R] Shrink.{u} N := (Shrink.linearEquiv R N).symm
+  exact ⟨Shrink.{u} N, inferInstance, inferInstance, Module.Finite.equiv eN,
+    Free.of_equiv eN, Free.of_equiv ((LinearEquiv.refl R M).prodCongr eN)⟩
+
+theorem IsStablyFree.of_free_prod' [Module.Finite R N] [Free R N] [Free R (N × M)] :
+    IsStablyFree R M :=
+  have : Free R (M × N) := Free.of_equiv (LinearEquiv.prodComm R N M)
+  .of_free_prod R M N
+
+instance (priority := low) IsStablyFree.projective [IsStablyFree R M] : Projective R M := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Module/StablyFree/Basic.lean]: Is the autogenerated name OK here?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/Module/StablyFree/Basic.lean (hunk 10 above)
Comment (mbkybky) [reply Mathlib/Algebra/Module/StablyFree/Basic.lean]: Sure. I've removed the name of this instance.
